US08703742B2
7-(3-Benzyloxy-propoxy)-4-fluoro-3-nitromethyl-3H-benzo[C][1,2]oxaborol-1-ol
NaOH (48 mg, 1.20 mmol) was added to 3-(3-benzyloxy-propoxy)-6-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (500 mg, 1.2 mmol) in H2O (3 mL) at rt, and the reaction mixture was stirred at rt for 5 min. MeNO2 (219 mg, 3.6 mmol) was added dropwise and the mixture was stirred at rt for 16 h. The reaction mixture was acidified with 2 N HCl and extracted with EtOAc. The organic fraction was washed with H2O then brine, dried (MgSO4), and concentrated in vacuo. Purification was accomplished by flash chromatography (10-40% EtOAc/hexane) to give 120 mg of the title compound by 1H NMR spectrum. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.40-7.22 (m, 5H), 7.11 (t, J=8.8 Hz, 1H), 6.81 (t, J=8.6 Hz, 1H), 5.93 (dd, J=9.0, 2.3 Hz, 1H), 4.99 (dd, J=13.1, 2.5 Hz, 1H), 4.62-4.53 (m, 2H), 4.43 (dd, J=12.9, 9.0 Hz, 1H), 4.19-4.01 (m, 2H), 3.66 (dt, J=15.9, 5.7 Hz, 2H), 2.18-1.94 (m, 2H); 19F NMR (376 MHz, CHLOROFORM-d) δ ppm −72.81 (s, 1F); MS (ESI) m/z=374 (M−1, negative).

reactant | NaOH | 1.20 mmol, 48 mg | [OH-].[Na+]
reactant | 3-(3-benzyloxy-propoxy)-6-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 1.2 mmol, 500 mg | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C(=CC1)F)B1OC(C(O1)(C)C)(C)C | C23H28BFO5
reactant | MeNO2 | 3.6 mmol, 219 mg | C[N+](=O)[O-] | CH3NO2
reactant | HCl | 2 N | Cl | ClH
solvent | H2O | 3 mL | O | H2O
product | 7-(3-Benzyloxy-propoxy)-4-fluoro-3-nitromethyl-3H-benzo[C][1,2]oxaborol-1-ol | 120 mg | C(C1=CC=CC=C1)OCCCOC1=CC=C(C2=C1B(OC2C[N+](=O)[O-])O)F | C18H19BFNO6
